************************************************************************
* auCdl Netlist:
* 
* Library Name:  bitslice_rv32Lib
* Top Cell Name: regfile
* View Name:     schematic
* Netlisted on:  Mar 22 17:07:02 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    bit2
* View Name:    schematic
************************************************************************

.SUBCKT bit2 A R1 R2 W Z1 Z2
*.PININFO A:I R1:I R2:I W:I Z1:B Z2:B
XI10 net2 Bit / inv
XI4 net1 net2 / inv
XI0 R1 R1b / inv
XI13 W Wb / inv
XI15 R2 R2b / inv
XI16 Bit Wb W net1 / trans
XI5 A W Wb net1 / trans
XI3 Bit R2 R2b Z2 / trans
XI14 Bit R1 R1b Z1 / trans
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    dlatch
* View Name:    schematic
************************************************************************

.SUBCKT dlatch D EN Q Qb
*.PININFO D:I EN:I Q:O Qb:O
XI16 D net2 / inv
XI18 ENB1 EN1 / inv
XI17 EN ENB1 / inv
XI20 Q Qb / inv
XI19 net3 Q / inv
XI21 Qb ENB1 EN1 net3 / trans
XI15 net2 EN1 ENB1 net3 / trans
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    reg2w32
* View Name:    schematic
************************************************************************

.SUBCKT reg2w32 CLK D Q1 Q1b Q2 Q2b RE1<31> RE1<30> RE1<29> RE1<28> RE1<27> 
+ RE1<26> RE1<25> RE1<24> RE1<23> RE1<22> RE1<21> RE1<20> RE1<19> RE1<18> 
+ RE1<17> RE1<16> RE1<15> RE1<14> RE1<13> RE1<12> RE1<11> RE1<10> RE1<9> 
+ RE1<8> RE1<7> RE1<6> RE1<5> RE1<4> RE1<3> RE1<2> RE1<1> RE1<0> RE2<31> 
+ RE2<30> RE2<29> RE2<28> RE2<27> RE2<26> RE2<25> RE2<24> RE2<23> RE2<22> 
+ RE2<21> RE2<20> RE2<19> RE2<18> RE2<17> RE2<16> RE2<15> RE2<14> RE2<13> 
+ RE2<12> RE2<11> RE2<10> RE2<9> RE2<8> RE2<7> RE2<6> RE2<5> RE2<4> RE2<3> 
+ RE2<2> RE2<1> RE2<0> WE<31> WE<30> WE<29> WE<28> WE<27> WE<26> WE<25> WE<24> 
+ WE<23> WE<22> WE<21> WE<20> WE<19> WE<18> WE<17> WE<16> WE<15> WE<14> WE<13> 
+ WE<12> WE<11> WE<10> WE<9> WE<8> WE<7> WE<6> WE<5> WE<4> WE<3> WE<2> WE<1> 
+ WE<0>
*.PININFO CLK:I D:I RE1<31>:I RE1<30>:I RE1<29>:I RE1<28>:I RE1<27>:I 
*.PININFO RE1<26>:I RE1<25>:I RE1<24>:I RE1<23>:I RE1<22>:I RE1<21>:I 
*.PININFO RE1<20>:I RE1<19>:I RE1<18>:I RE1<17>:I RE1<16>:I RE1<15>:I 
*.PININFO RE1<14>:I RE1<13>:I RE1<12>:I RE1<11>:I RE1<10>:I RE1<9>:I RE1<8>:I 
*.PININFO RE1<7>:I RE1<6>:I RE1<5>:I RE1<4>:I RE1<3>:I RE1<2>:I RE1<1>:I 
*.PININFO RE1<0>:I RE2<31>:I RE2<30>:I RE2<29>:I RE2<28>:I RE2<27>:I RE2<26>:I 
*.PININFO RE2<25>:I RE2<24>:I RE2<23>:I RE2<22>:I RE2<21>:I RE2<20>:I 
*.PININFO RE2<19>:I RE2<18>:I RE2<17>:I RE2<16>:I RE2<15>:I RE2<14>:I 
*.PININFO RE2<13>:I RE2<12>:I RE2<11>:I RE2<10>:I RE2<9>:I RE2<8>:I RE2<7>:I 
*.PININFO RE2<6>:I RE2<5>:I RE2<4>:I RE2<3>:I RE2<2>:I RE2<1>:I RE2<0>:I 
*.PININFO WE<31>:I WE<30>:I WE<29>:I WE<28>:I WE<27>:I WE<26>:I WE<25>:I 
*.PININFO WE<24>:I WE<23>:I WE<22>:I WE<21>:I WE<20>:I WE<19>:I WE<18>:I 
*.PININFO WE<17>:I WE<16>:I WE<15>:I WE<14>:I WE<13>:I WE<12>:I WE<11>:I 
*.PININFO WE<10>:I WE<9>:I WE<8>:I WE<7>:I WE<6>:I WE<5>:I WE<4>:I WE<3>:I 
*.PININFO WE<2>:I WE<1>:I WE<0>:I Q1:O Q1b:O Q2:O Q2b:O
XI1 D RE1<1> RE2<1> WE<1> net2 net7 / bit2
XI2 D RE1<2> RE2<2> WE<2> net2 net7 / bit2
XI3 D RE1<3> RE2<3> WE<3> net2 net7 / bit2
XI4 D RE1<4> RE2<4> WE<4> net2 net7 / bit2
XI5 D RE1<5> RE2<5> WE<5> net2 net7 / bit2
XI6 D RE1<6> RE2<6> WE<6> net2 net7 / bit2
XI7 D RE1<7> RE2<7> WE<7> net2 net7 / bit2
XI8 D RE1<8> RE2<8> WE<8> net2 net7 / bit2
XI9 D RE1<9> RE2<9> WE<9> net2 net7 / bit2
XI10 D RE1<10> RE2<10> WE<10> net2 net7 / bit2
XI11 D RE1<11> RE2<11> WE<11> net2 net7 / bit2
XI12 D RE1<12> RE2<12> WE<12> net2 net7 / bit2
XI13 D RE1<13> RE2<13> WE<13> net2 net7 / bit2
XI14 D RE1<14> RE2<14> WE<14> net2 net7 / bit2
XI15 D RE1<15> RE2<15> WE<15> net2 net7 / bit2
XI16 D RE1<16> RE2<16> WE<16> net2 net7 / bit2
XI17 D RE1<17> RE2<17> WE<17> net2 net7 / bit2
XI18 D RE1<18> RE2<18> WE<18> net2 net7 / bit2
XI19 D RE1<19> RE2<19> WE<19> net2 net7 / bit2
XI20 D RE1<20> RE2<20> WE<20> net2 net7 / bit2
XI21 D RE1<21> RE2<21> WE<21> net2 net7 / bit2
XI22 D RE1<22> RE2<22> WE<22> net2 net7 / bit2
XI23 D RE1<23> RE2<23> WE<23> net2 net7 / bit2
XI24 D RE1<24> RE2<24> WE<24> net2 net7 / bit2
XI25 D RE1<25> RE2<25> WE<25> net2 net7 / bit2
XI26 D RE1<26> RE2<26> WE<26> net2 net7 / bit2
XI27 D RE1<27> RE2<27> WE<27> net2 net7 / bit2
XI28 D RE1<28> RE2<28> WE<28> net2 net7 / bit2
XI29 D RE1<29> RE2<29> WE<29> net2 net7 / bit2
XI30 D RE1<30> RE2<30> WE<30> net2 net7 / bit2
XI31 D RE1<31> RE2<31> WE<31> net2 net7 / bit2
XI33 net2 CLK Q1 Q1b / dlatch
XI32 net7 CLK Q2 Q2b / dlatch
XI61 vss! RE2<0> RE2b net7 / trans
XI62 vss! RE1<0> RE1b net2 / trans
XI66 RE2<0> RE2b / inv
XI65 RE1<0> RE1b / inv
.ENDS

************************************************************************
* Library Name: bitslice_rv32Lib
* Cell Name:    regfile
* View Name:    schematic
************************************************************************

.SUBCKT regfile clk rd_mux_out rd_sel<31> rd_sel<30> rd_sel<29> rd_sel<28> 
+ rd_sel<27> rd_sel<26> rd_sel<25> rd_sel<24> rd_sel<23> rd_sel<22> rd_sel<21> 
+ rd_sel<20> rd_sel<19> rd_sel<18> rd_sel<17> rd_sel<16> rd_sel<15> rd_sel<14> 
+ rd_sel<13> rd_sel<12> rd_sel<11> rd_sel<10> rd_sel<9> rd_sel<8> rd_sel<7> 
+ rd_sel<6> rd_sel<5> rd_sel<4> rd_sel<3> rd_sel<2> rd_sel<1> rd_sel<0> 
+ rs1_rdata rs1_sel<31> rs1_sel<30> rs1_sel<29> rs1_sel<28> rs1_sel<27> 
+ rs1_sel<26> rs1_sel<25> rs1_sel<24> rs1_sel<23> rs1_sel<22> rs1_sel<21> 
+ rs1_sel<20> rs1_sel<19> rs1_sel<18> rs1_sel<17> rs1_sel<16> rs1_sel<15> 
+ rs1_sel<14> rs1_sel<13> rs1_sel<12> rs1_sel<11> rs1_sel<10> rs1_sel<9> 
+ rs1_sel<8> rs1_sel<7> rs1_sel<6> rs1_sel<5> rs1_sel<4> rs1_sel<3> rs1_sel<2> 
+ rs1_sel<1> rs1_sel<0> rs2_rdata rs2_sel<31> rs2_sel<30> rs2_sel<29> 
+ rs2_sel<28> rs2_sel<27> rs2_sel<26> rs2_sel<25> rs2_sel<24> rs2_sel<23> 
+ rs2_sel<22> rs2_sel<21> rs2_sel<20> rs2_sel<19> rs2_sel<18> rs2_sel<17> 
+ rs2_sel<16> rs2_sel<15> rs2_sel<14> rs2_sel<13> rs2_sel<12> rs2_sel<11> 
+ rs2_sel<10> rs2_sel<9> rs2_sel<8> rs2_sel<7> rs2_sel<6> rs2_sel<5> 
+ rs2_sel<4> rs2_sel<3> rs2_sel<2> rs2_sel<1> rs2_sel<0>
*.PININFO clk:I rd_mux_out:I rd_sel<31>:I rd_sel<30>:I rd_sel<29>:I 
*.PININFO rd_sel<28>:I rd_sel<27>:I rd_sel<26>:I rd_sel<25>:I rd_sel<24>:I 
*.PININFO rd_sel<23>:I rd_sel<22>:I rd_sel<21>:I rd_sel<20>:I rd_sel<19>:I 
*.PININFO rd_sel<18>:I rd_sel<17>:I rd_sel<16>:I rd_sel<15>:I rd_sel<14>:I 
*.PININFO rd_sel<13>:I rd_sel<12>:I rd_sel<11>:I rd_sel<10>:I rd_sel<9>:I 
*.PININFO rd_sel<8>:I rd_sel<7>:I rd_sel<6>:I rd_sel<5>:I rd_sel<4>:I 
*.PININFO rd_sel<3>:I rd_sel<2>:I rd_sel<1>:I rd_sel<0>:I rs1_sel<31>:I 
*.PININFO rs1_sel<30>:I rs1_sel<29>:I rs1_sel<28>:I rs1_sel<27>:I 
*.PININFO rs1_sel<26>:I rs1_sel<25>:I rs1_sel<24>:I rs1_sel<23>:I 
*.PININFO rs1_sel<22>:I rs1_sel<21>:I rs1_sel<20>:I rs1_sel<19>:I 
*.PININFO rs1_sel<18>:I rs1_sel<17>:I rs1_sel<16>:I rs1_sel<15>:I 
*.PININFO rs1_sel<14>:I rs1_sel<13>:I rs1_sel<12>:I rs1_sel<11>:I 
*.PININFO rs1_sel<10>:I rs1_sel<9>:I rs1_sel<8>:I rs1_sel<7>:I rs1_sel<6>:I 
*.PININFO rs1_sel<5>:I rs1_sel<4>:I rs1_sel<3>:I rs1_sel<2>:I rs1_sel<1>:I 
*.PININFO rs1_sel<0>:I rs2_sel<31>:I rs2_sel<30>:I rs2_sel<29>:I rs2_sel<28>:I 
*.PININFO rs2_sel<27>:I rs2_sel<26>:I rs2_sel<25>:I rs2_sel<24>:I 
*.PININFO rs2_sel<23>:I rs2_sel<22>:I rs2_sel<21>:I rs2_sel<20>:I 
*.PININFO rs2_sel<19>:I rs2_sel<18>:I rs2_sel<17>:I rs2_sel<16>:I 
*.PININFO rs2_sel<15>:I rs2_sel<14>:I rs2_sel<13>:I rs2_sel<12>:I 
*.PININFO rs2_sel<11>:I rs2_sel<10>:I rs2_sel<9>:I rs2_sel<8>:I rs2_sel<7>:I 
*.PININFO rs2_sel<6>:I rs2_sel<5>:I rs2_sel<4>:I rs2_sel<3>:I rs2_sel<2>:I 
*.PININFO rs2_sel<1>:I rs2_sel<0>:I rs1_rdata:O rs2_rdata:O
XI0 clk rd_mux_out rs1_rdata net8 rs2_rdata net6 rs1_sel<31> rs1_sel<30> 
+ rs1_sel<29> rs1_sel<28> rs1_sel<27> rs1_sel<26> rs1_sel<25> rs1_sel<24> 
+ rs1_sel<23> rs1_sel<22> rs1_sel<21> rs1_sel<20> rs1_sel<19> rs1_sel<18> 
+ rs1_sel<17> rs1_sel<16> rs1_sel<15> rs1_sel<14> rs1_sel<13> rs1_sel<12> 
+ rs1_sel<11> rs1_sel<10> rs1_sel<9> rs1_sel<8> rs1_sel<7> rs1_sel<6> 
+ rs1_sel<5> rs1_sel<4> rs1_sel<3> rs1_sel<2> rs1_sel<1> rs1_sel<0> 
+ rs2_sel<31> rs2_sel<30> rs2_sel<29> rs2_sel<28> rs2_sel<27> rs2_sel<26> 
+ rs2_sel<25> rs2_sel<24> rs2_sel<23> rs2_sel<22> rs2_sel<21> rs2_sel<20> 
+ rs2_sel<19> rs2_sel<18> rs2_sel<17> rs2_sel<16> rs2_sel<15> rs2_sel<14> 
+ rs2_sel<13> rs2_sel<12> rs2_sel<11> rs2_sel<10> rs2_sel<9> rs2_sel<8> 
+ rs2_sel<7> rs2_sel<6> rs2_sel<5> rs2_sel<4> rs2_sel<3> rs2_sel<2> rs2_sel<1> 
+ rs2_sel<0> rd_sel<31> rd_sel<30> rd_sel<29> rd_sel<28> rd_sel<27> rd_sel<26> 
+ rd_sel<25> rd_sel<24> rd_sel<23> rd_sel<22> rd_sel<21> rd_sel<20> rd_sel<19> 
+ rd_sel<18> rd_sel<17> rd_sel<16> rd_sel<15> rd_sel<14> rd_sel<13> rd_sel<12> 
+ rd_sel<11> rd_sel<10> rd_sel<9> rd_sel<8> rd_sel<7> rd_sel<6> rd_sel<5> 
+ rd_sel<4> rd_sel<3> rd_sel<2> rd_sel<1> rd_sel<0> / reg2w32
.ENDS

