************************************************************************
* auCdl Netlist:
* 
* Library Name:  ece425_mp0
* Top Cell Name: buf
* View Name:     schematic
* Netlisted on:  Feb 24 16:42:30 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vdd!
*+    vss!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: ece425_mp0
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
MM1 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: ece425_mp0
* Cell Name:    buf
* View Name:    schematic
************************************************************************

.SUBCKT buf A Z
*.PININFO A:I Z:O
XI1 net2 Z / inv
XI0 A net2 / inv
.ENDS

